US07368579B2
Suspension of 2,5-dibromo-1-methoxymethyl-4-nitroimidazole (17.15 g), sodium sulfite (13.73 g), dimethylformamide (100 ml) and water (50 ml) was stirred at a room temperature for 8 hours. The reaction mixture was neutralized with an aqueous solution being saturated with sodium hydrogencarbonate, then ethyl acetate and water were added. The organic layer was washed with an aqueous solution being saturated with sodium chloride, and dried over anhydrous sodium sulfate, then concentrated under a reduced pressure to obtain 2-bromo-1-methoxymethyl-4-nitroimidazole (11.17 g, yield: 86.8%) of white powdery product.

reactant | 2,5-dibromo-1-methoxymethyl-4-nitroimidazole | 17.15 g | BrC=1N(C(=C(N1)[N+](=O)[O-])Br)COC | C5H5Br2N3O3
reactant | sodium sulfite | 13.73 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-bromo-1-methoxymethyl-4-nitroimidazole | 11.17 g, yield: 86.8% | BrC=1N(C=C(N1)[N+](=O)[O-])COC | C5H6BrN3O3
